US06992085B2
Step A: 4-Bromo-1-(4-bromobutyl)-1H-indole
The procedure is as for Example 39 using as substrate 5-bromo-1H-indole and 1,4-dibromobutane.

reactant | 5-bromo-1H-indole | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 4-Bromo-1-(4-bromobutyl)-1H-indole | BrC1=C2C=CN(C2=CC=C1)CCCCBr | C12H13Br2N
